US03931174
2-Ethylsulfonylmethylquinoxaline 1,4-Dioxide
A slurry of 2-ethylsulfonylmethyl-3-carbomethoxyquinoxaline-1,4-dioxide (28.2 g., 0.087 m) and 0.5 N sodium hydroxide (280 ml.) was stirred at room temperature for 30 minutes. It was then filtered and the filtrate acidified to pH 3 with 6N hydrochloric acid. The resulting slurry was heated in an oil bath (bath temperature 120°C.) for 30 minutes. It was removed from the oil bath, allowed to cool to room temperature and the solid filtered off: 22.2 g. (95 percent yield); m.p. 216°C.

reactant | 2-ethylsulfonylmethyl-3-carbomethoxyquinoxaline-1,4-dioxide | 28.2 g | C(C)S(=O)(=O)CC1=[N+](C2=CC=CC=C2[N+](=C1C(=O)OC)[O-])[O-] | C13H14N2O6S
solvent | sodium hydroxide | 0.5 N, 280 ml | [OH-].[Na+]
product | 2-Ethylsulfonylmethylquinoxaline 1,4-Dioxide | 95 percent yield | C(C)S(=O)(=O)CC1=[N+](C2=CC=CC=C2[N+](=C1)[O-])[O-] | C11H12N2O4S
